US06093732
N-((4-Chlorophenyl)methyl)-6,8-difluoro-4-hydroxy-7-(4-(hydroxymethyl)phenoxy)-3-quinolinecarboxamide
N-((4-Chlorophenyl)methyl)-4-oxo-6,7,8-trifluoro-1-(2-(trimethylsilyl)ethoxy) methyl-3-quinolinecarboxamide (1.00 g) from Preparation No. 13 and 4-hydroxymethyl phenol (500 mg) are dissolved in DMF (20 mL). Sodium hydride (60% dispersion, 80 mg) is added and the mixture is heated to 140° C. for 1 h. The reaction mixture is allowed to cool to rt, is poured into sat. aq. ammonium chloride (100 mL), and is extracted with ethyl acetate (3×50 mL). The organic layer is washed with brine (10 mL), dried (MgSO4), and concentrated. The crude product is purified by column chromatography (heptane/ethyl acetate, 1/1; 1/5) followed by recrystallization to afford 145 mg of the title compound as a white solid.

reactant | N-((4-Chlorophenyl)methyl)-4-oxo-6,7,8-trifluoro-1-(2-(trimethylsilyl)ethoxy) methyl-3-quinolinecarboxamide | 1.00 g | ClC1=CC=C(C=C1)CNC(=O)C1=CN(C2=C(C(=C(C=C2C1=O)F)F)F)COCC[Si](C)(C)C | C23H24ClF3N2O3Si
reactant | 4-hydroxymethyl phenol | 500 mg | OCC1=CC=C(C=C1)O | C7H8O2
reactant | Sodium hydride | 80 mg | [H-].[Na+]
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-((4-Chlorophenyl)methyl)-6,8-difluoro-4-hydroxy-7-(4-(hydroxymethyl)phenoxy)-3-quinolinecarboxamide | 145 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C(=C(C=C2C1O)F)OC1=CC=C(C=C1)CO)F | C24H17ClF2N2O4
